US05589467
2',3'-Di-O-benzoyl-2-chloro-5'-deoxy-N-methoxy-5'-methyleneadenosine (0.2 g, 0.4 mmol), prepared by the method described in Example 25 from 2,6-dichloro-9-(2',3'-di-O-benzoyl-5'-methylene-β-D-ribofuranosyl)-9H-purine (0.5 g, 2.0 mmol) and O-methylhydroxlamine hydrochloride (0.167 g, 2.0 mmol), was treated with methanolic ammonia (10 ml) and stirred at ambient temperature for 18 h. The reaction mixture was evaporated and purified by flash chromatography eluting with a mixture of dichloromethane and 10% ammonia in ethanol (19:1) to provide the title 2-chloro-5'-deoxy-N-methoxy-5'-methyleneadenosine (0.03 g, 9%) as a foam, 1H-NMR (400 MHz, DMSO-d6) δ3.79 (3H, s, --CH3), 4.08 (1H, q, H-3'), 4.33 (1H, dt, H-2'), 4.61 (1H, m, H-4'), 5.20 (1H, dd, C=C--H), 5.31 (1H, d, C=C--H), 5.42, 5.59 (2H, 2d, 2'-and 3'-OH), 5.89 (1H, d, H-1'), 6.08 (1H, m, C=C--H), 8.44 (1H, s, H-8), 11.58 (1H, s, N--H). HPLC retention time 7.09 min. (gradient elution over 30 min; 25-45 % acetonitrile/0.1% ammonium sulfate in water), purity 98.6% at 250 nm).

reactant | 2',3'-Di-O-benzoyl-2-chloro-5'-deoxy-N-methoxy-5'-methyleneadenosine | 0.4 mmol, 0.2 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C=C)N1C=NC=2C(NOC)=NC(=NC12)Cl | C26H22ClN5O6
reactant | 2,6-dichloro-9-(2',3'-di-O-benzoyl-5'-methylene-β-D-ribofuranosyl)-9H-purine | 2.0 mmol, 0.5 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)C(O)=C)Cl | C25H18Cl2N4O6
reactant | hydrochloride | 2.0 mmol, 0.167 g | Cl | ClH
solvent | ammonia | 10 ml | N | H3N
product | 2-chloro-5'-deoxy-N-methoxy-5'-methyleneadenosine | 0.03 g, 9% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](C=C)O3)C2N1)NOC | C12H14ClN5O4
